US06525212B1
Synthetic Example of 4-[N,N-di(4-methoxyphenyl)amino]benzaldehyde (Structural Formula (27)-2)
1.76 g (11.5 mmols) of phosphorus oxychloride was dropped in anhydrous dimethylformamide under agitation at room temperature, into which 25 ml of anhydrous dimethylformamide solution of 1.75 g of N,N-di(4-methoxyphenyl)aniline ((36)-2) was further dropped, following by raising the reaction temperature and agitating at 70° C. for 90 minutes.

reactant | phosphorus oxychloride | 11.5 mmols, 1.76 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-di(4-methoxyphenyl)aniline | 1.75 g | COC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C20H19NO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-[N,N-di(4-methoxyphenyl)amino]benzaldehyde | COC1=CC=C(C=C1)N(C1=CC=C(C=C1)OC)C1=CC=C(C=O)C=C1 | C21H19NO3
